US06863647B2
Preparation of a Compound of Formula (I): N-(5-isopropyl-1,3-thiazol-2-yl)-N′-(3-iodophenyl)urea
1 g (3.25 mmol) of 4-nitrophenyl-5-isopropyl-1,3-thiazol-2-ylcarbamate and 0.39 ml (3.25 mmol) of 3-iodoaniline were suspended under argon in 25 ml of acetonitrile. After 2 hours at 70° C. the resulting solution was cooled, giving rise 0.923 g of the title compound, recrystallized from a mixture of diethylether/pentane 1/1.

reactant | 4-nitrophenyl-5-isopropyl-1,3-thiazol-2-ylcarbamate | 3.25 mmol, 1 g | [N+](=O)([O-])C1=CC=C(C=C1)N(C([O-])=O)C=1SC(=CN1)C(C)C
reactant | 3-iodoaniline | 3.25 mmol, 0.39 ml | IC=1C=C(N)C=CC1 | C6H6IN
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-(5-isopropyl-1,3-thiazol-2-yl)-N′-(3-iodophenyl)urea | 0.923 g | C(C)(C)C1=CN=C(S1)NC(=O)NC1=CC(=CC=C1)I | C13H14IN3OS
